### PR TITLE
Changes of Congruence.lean

### PR DESCRIPTION
**Pull request by 2200010613**
Add a necessary theorem in Angle_ex2 and have to import colinear in it at the same time.
Modify a conflict in Construction.Triangle.IsocelesTriangle.lean

### CODE REVIEW

File: EuclideanGeometry/Foundation/Axiom/Position/Angle_ex2.lean [hunk 1]
```diff
@@ -34,15 +35,15 @@ theorem source_start_ray_eq_source_end_ray (ang : Angle P) : ang.start_ray.sourc
...
 
-
 def sum_adj {ang₁ ang₂: Angle P} (h :ang₁.end_ray = ang₂.start_ray) : Angle P := Angle.mk ang₁.start_ray ang₂.end_ray (source_eq_source_of_adj h)
 
-
-
-
 theorem ang_eq_ang_add_ang_mod_pi_of_adj_ang (ang₁ ang₂ : Angle P) (h: ang₁.end_ray = ang₂.start_ray) : (sum_adj h).value = ang₁.value + ang₂.value ∨ (sum_adj h).value = ang₁.value + ang₂.value + π ∨ (sum_adj h).value = ang₁.value + ang₂.value - π := sorry
 
+section Colinear
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Position/Angle_ex2.lean:42]: section names are usually of lower case

File: EuclideanGeometry/Foundation/Axiom/Triangle/Congruence.lean [hunk 2]
```diff
@@ -26,27 +27,124 @@ section triangle
...
+    have notnd : ¬ (Triangle.is_nd tr₁ ∧ Triangle.is_nd tr₂) := by
+      push_neg
+      intro _
+      exact nd_2
+    unfold Triangle.is_nd at nd_2
+    push_neg at nd_2
+    have sum := (Triangle.edge_sum_eq_edge_iff_colinear tr₂).mp nd_2
+    simp only [dif_neg notnd] at h 
+    rcases h with ⟨h₁,⟨h₂,h₃⟩⟩
+    rw[← h₁,← h₂,← h₃] at sum
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Triangle/Congruence.lean:46]: please use `rw []` instead of `rw[]`

File: EuclideanGeometry/Foundation/Axiom/Triangle/Congruence.lean [hunk 3]
```diff
@@ -26,27 +27,124 @@ section triangle
...
+    simp only [eq_iff_iff, false_iff]
+    unfold Triangle.is_nd
+    push_neg
+    exact nd_2
+
+theorem edge₁ : tr₁.edge₁.length = tr₂.edge₁.length := by
+  rw[IsCongr] at h
+  have h' :=eq_true h
+  by_cases nd:(tr₁.is_nd ∧ tr₂.is_nd)
+  · simp[nd] at h'
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Triangle/Congruence.lean:73]: please use `simp only []`

File: EuclideanGeometry/Foundation/Axiom/Triangle/Congruence.lean [hunk 4]
```diff
@@ -56,11 +154,70 @@ namespace IsCongr
...
+protected theorem refl : tr IsCongrTo tr := by
+  rw[IsCongr]
+  by_cases h': Triangle.is_nd tr 
+  · have h'' : Triangle.is_nd tr ∧ Triangle.is_nd tr := by constructor;exact h';exact h'
+    rw[dif_pos h'']
+    repeat
+     constructor
+     rfl
+    rfl
+  · have h'' : ¬ (Triangle.is_nd tr ∧ Triangle.is_nd tr) := by push_neg;intro ;exact h'
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Triangle/Congruence.lean:166]: this can be write better, please do not put tactics in one line.

File: EuclideanGeometry/Foundation/Axiom/Triangle/Congruence.lean [hunk 5]
```diff
@@ -56,11 +154,70 @@ namespace IsCongr
...
+  · have nd₂ := (is_nd tr₁ tr₂) h
+    rw[eq_true nd₁] at nd₂
+    simp at nd₂
+    rw[IsCongr] at h
+    simp only [nd₁,nd₂, and_self, dite_true] at h 
+    rw[IsCongr]
+    simp only [nd₂, nd₁, and_self, dite_true]
+    rcases h with ⟨h₁,⟨h₂,⟨h₃,⟨h₄,⟨h₅,h₆⟩⟩⟩⟩⟩
+    simp only [h₁, h₂, h₃, h₄, h₅, h₆, and_self]
+  · let _ := nd₁
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Triangle/Congruence.lean:184]: I am sorry, maybe I am stupid, but why is this line really needed?

File: EuclideanGeometry/Foundation/Axiom/Triangle/Congruence.lean [hunk 6]
```diff
@@ -87,27 +244,122 @@ section triangle
...
+      exact nd_1 nd₁
+    unfold Triangle.is_nd at nd_1
+    push_neg at nd_1
+    have sum := (Triangle.edge_sum_eq_edge_iff_colinear tr₁).mp nd_1
+    simp only [dif_neg notnd] at h 
+    rcases h with ⟨h₁,⟨h₂,h₃⟩⟩
+    rw[h₁,h₂,h₃] at sum
+    have nd_2 :=(Triangle.edge_sum_eq_edge_iff_colinear tr₂).mpr sum
+    unfold Triangle.is_nd at nd₂
+    exact nd₂ nd_2
```
Comment (jjdishere) [inline EuclideanGeometry/Foundation/Axiom/Triangle/Congruence.lean:280]: do we really need unfold before exact?

**Review by jjdishere — CHANGES_REQUESTED** [review]
please modify your code before merge.

**Review by jjdishere — APPROVED** [review]
